US07427390B2
200 mg (0.75 mmol) of 4-amino-N-(2-diethylamino-ethyl)-2-methoxy-benzamide in 10 ml of chloroform is mixed with 5 ml of 3,4-methylenedioxybenzoic acid chloride (in chloroform) and this mixture is stirred for 3 hours at room temperature. After concentration by evaporation in a vacuum, the residue is taken up in 40 ml of dilute sodium bicarbonate solution and then extracted with 40 ml of methylene chloride. The methylene chloride phase is washed with water, dried, filtered and concentrated by evaporation. The crude product, 315 mg, is taken up in methylene chloride and purified on silica gel. As a mobile solvent, a mixture that consists of methylene chloride/methanol (97:3→90:10) is used. 210 mg (67% of theory) of benzo[1,3]dioxole-5-carboxylic acid [4-(2-diethylamino-ethylcarbamoyl)-5-methoxy-phenyl]-amide (melting point 131.1° C.) is obtained.

reactant | 4-amino-N-(2-diethylamino-ethyl)-2-methoxy-benzamide | 0.75 mmol, 200 mg | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1)OC | C14H23N3O2
reactant | 3,4-methylenedioxybenzoic acid chloride | 5 ml | C1OC=2C=C(C(=O)Cl)C=CC2O1 | C8H5ClO3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | benzo[1,3]dioxole-5-carboxylic acid [4-(2-diethylamino-ethylcarbamoyl)-5-methoxy-phenyl]-amide | 210 mg, 67% | C(C)N(CCNC(=O)C1=CC=C(C=C1OC)NC(=O)C1=CC2=C(OCO2)C=C1)CC | C22H27N3O5
